US07528138B2
6-Bromo-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine II-2
4-(Pyridin-2-yl)-1H-pyrazole-3,5-diamine (2.54 g, 14.51 mmol) and 2-bromo-malonaldehyde (2.41 g, 15.97 mmol) were suspended in dry ethanol (35 mL). A small amount of glacial acetic acid (30 drops) was added and the mixture was heated at reflux for 3 hours. After allowing the reaction to cool to room temperature the mixture was concentrated under reduced pressure. The resulting solid was purified by silica gel chromatography eluting with EtOAc containing 2% NH3(aq) solution to afford the title compound as a yellow solid (0.82 g, 19% yield). MS (ES+) 290/292. δH (DMSO-d6) 7.2 (3H, m), 7.9 (1H, t), 8.5 (1H, d), 8.6 (2H, m), 9.3 (1H, s).

reactant | 4-(Pyridin-2-yl)-1H-pyrazole-3,5-diamine | 14.51 mmol, 2.54 g | N1=C(C=CC=C1)C=1C(=NNC1N)N | C8H9N5
reactant | 2-bromo-malonaldehyde | 15.97 mmol, 2.41 g | BrC(C=O)C=O | C3H3BrO2
solvent | ethanol | 35 mL | C(C)O | C2H6O
catalyst | acetic acid | 30 drops | C(C)(=O)O | C2H4O2
product | 6-Bromo-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine | 0.82 g, 19% yield | BrC=1C=NC=2N(C1)N=C(C2C2=NC=CC=C2)N | C11H8BrN5
